US07045653B2
5-(Bromomethyl)-2-methylpyridine Hydrobromide
A solution of (6-methylpyridin-3-yl)methanol (J. Med. Chem. 43; 18; 2000; 3386) (492 mg, 4 mmol) and thionyl bromide (4.16 g, 20 mmol) in dichloromethane (20 ml) was stirred at room temperature for 3 hours. The reaction was concentrated under reduced pressure and the residue azeotroped with dichloromethane. The residual red oil was triturated well with ether to afford the title compound as an orange powder, 1.39 g; 1H NMR (DMSOd6, 400 MHz) δ: 2.64 (s, 3H), 4.81 (s, 2H), 7.81 (d, 1H), 8.42 (d, 1H), 8.84 (s, 1H).

reactant | (6-methylpyridin-3-yl)methanol | 4 mmol, 492 mg | CC1=CC=C(C=N1)CO | C7H9NO
reactant | thionyl bromide | 20 mmol, 4.16 g | S(=O)(Br)Br | Br2OS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-(Bromomethyl)-2-methylpyridine Hydrobromide | Br.BrCC=1C=CC(=NC1)C | InChI=1S/C7H8BrN.BrH/c1-6-2-3-7(4-8)5-9-6;/h2-3,5H,4H2,1H3;1H
